US08247377B2
5-Amino-N-(2-{[[(2,6-difluorophenyl)carbonyl](ethyl)amino]methyl}-3,3,3-trifluoro-2-hydroxypropyl)-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide
To a solution of 5-amino-N-{2-[(ethylamino)methyl]-3,3,3-trifluoro-2-hydroxypropyl}-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide (0.277 g, 0.712 mmol) in dry dichloromethane (ca. 11 ml), diisopropylethylamine (0.245 ml, 1.42 mmol) was added and then cooled in a freezer to −10 to −15° C. before a similarly cooled solution of 2,6-difluorobenzoyl chloride (0.123 g, 0.712 mmol) in dichloromethane (2 ml) was added with stirring. The mixture was stirred for 1 minute and then allowed to stand in the fridge for approx. 2 hours and then allowed to warm to room temperature. The next day the mixture was evaporated under reduced pressure and purified on a column of silica. Elution with 2% ethanol in chloroform gave, upon evaporation under reduced pressure, a clear glass (0.421 g) which, upon scraping, gave the title compound (0.356 g) as a white solid.

reactant | 5-amino-N-{2-[(ethylamino)methyl]-3,3,3-trifluoro-2-hydroxypropyl}-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide | 0.712 mmol, 0.277 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NCC(C(F)(F)F)(O)CNCC | C16H19F4N5O2
reactant | diisopropylethylamine | 1.42 mmol, 0.245 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2,6-difluorobenzoyl chloride | 0.712 mmol, 0.123 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
solvent | dichloromethane | ca. 11 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 5-Amino-N-(2-{[[(2,6-difluorophenyl)carbonyl](ethyl)amino]methyl}-3,3,3-trifluoro-2-hydroxypropyl)-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide | 0.356 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NCC(C(F)(F)F)(O)CN(CC)C(=O)C1=C(C=CC=C1F)F | C23H21F6N5O3
